data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_105186_0,[C:1]([C:3]([H:14])([H:15])[H:16])([O:5][C:2]([C:4]([O:7][H:10])=[O:8])([H:12])[H:13])([O:6][H:9])[H:11]>>[C:1]([C:3]([H:14])([H:15])[H:16])([O:5][C:2]([C:4]([O:7][H:10])([O:8][H:9])[H:11])([H:12])[H:13])=[O:6],50.193724999970186
MR_27211_0,[C:1]([C:5]([N:4]([C:2]([H:11])([H:12])[H:15])[C:3]([H:13])([H:14])[H:16])=[C:7]([H:19])[H:20])([N:8][C:6]([H:17])[H:18])([H:9])[H:10]>>[C:1]1([H:9])([H:10])[C:5](=[C:7]([H:19])[H:20])[N:8]1[C:6]([N:4]([C:2]([H:11])([H:12])[H:15])[C:3]([H:13])([H:14])[H:16])([H:17])[H:18],71.16602999998904
MR_430776_2,[C:1]([C:4]([C:3]([C:2]([H:13])([H:14])[H:15])=[O:8])=[C:6]([H:16])[H:17])([N:5]([H:11])[H:12])([O:7][H:9])[H:10]>>[C:1](\[C:4]([C:3]([C:2]([H:13])([H:14])[H:15])([O:8][H:11])[H:10])=[C:6]([H:16])[H:17])(=[N:5]/[H:12])[O:7][H:9],61.857067499985874
MR_435949_0,[C:1]1([O:6][H:9])([H:11])[C:2]([H:12])([H:13])[C:4]([O:7][H:10])=[C:3]1[O:5][H:8]>>[C:1](=[C:3](/[C:4](=[C:2]([H:12])[H:13])[O:7][H:10])[O:5][H:8])(\[O:6][H:9])[H:11],23.463479999971355
MR_166561_0,[C:1]([C:2]([C:5]([H:20])([H:21])[H:22])([H:12])[H:13])(/[C:6]([C:4]([H:17])([H:18])[H:19])=[N:8]/[C:3]([H:14])([H:15])[H:16])([N:7]([H:10])[H:11])[H:9]>>[C:1](\[C:6]([C:2]([C:5]([H:20])([H:21])[H:22])([H:12])[H:13])([C:4]([H:17])([H:18])[H:19])[N:8]([C:3]([H:14])([H:15])[H:16])[H:11])(=[N:7]/[H:10])[H:9],55.35365750003322
MR_209722_0,[N:1]([O:5][H:7])([N:6]=[C:2]([N:3]([H:9])[H:10])[N:4]([H:11])[H:12])[H:8]>>[N:1]([O:5][H:7])[N:6][C:2]([N:3]([H:9])[H:10])([N:4]([H:11])[H:12])[H:8],71.73642750001136
MR_237932_2,[C@@:1]([N:3]([H:11])[H:12])([O:4][H:7])(/[N:5]=[N:6]/[N:2]([H:9])[H:10])[H:8]>>[C:1](\[N:3]([H:11])[H:12])([O:4][H:7])=[N:5]\[N:6]([N:2]([H:9])[H:10])[H:8],72.58543500000798
MR_696511_1,[C:1](/[C:4]([C:2]([H:16])([H:17])[H:18])=[C:5](\[C:3]([H:19])([H:20])[H:21])[N:8]([H:14])[H:15])([N:6]([H:11])[H:12])([N:7]([H:10])[H:13])[H:9]>>[C:1](=[C:4]([C:2]([H:16])([H:17])[H:18])[C:5]([C:3]([H:19])([H:20])[H:21])([N:8]([H:14])[H:15])[H:9])([N:6]([H:11])[H:12])[N:7]([H:10])[H:13],72.2271324999852
MR_679967_1,[C:1]([N:3]([H:9])[H:10])([N:4]([H:11])[H:12])=[N:8]/[C:2]([N:5]([H:13])[H:14])=[C:7](/[N:6]([H:15])[H:16])[H:17]>>[C:1]1([N:3]([H:9])[H:10])([N:4]([H:11])[H:12])[C:7]([N:6]([H:15])[H:16])([H:17])[C:2]([N:5]([H:13])[H:14])=[N:8]1,36.82860249997077
MR_258656_0,[C:1](/[C:3]([O:5][H:7])=[N:6]\[N:2]([N:4]([H:9])[H:10])[H:8])([H:11])([H:12])[H:13]>>[C:1]([C:3]([O:5][H:7])(/[N:6]=[N:2]/[N:4]([H:9])[H:10])[H:8])([H:11])([H:12])[H:13],54.36911000002212
MR_185175_1,[C:1](/[N:7]=[C:4](/[C:2]([H:14])([H:15])[H:16])[N:3]([N:5]([H:9])[H:10])[O:6][H:8])([H:11])([H:12])[H:13]>>[C:1]([N:7](/[C:4]([C:2]([H:14])([H:15])[H:16])=[N:3]/[N:5]([H:9])[H:10])[O:6][H:8])([H:11])([H:12])[H:13],67.98837000002194
MR_82353_1,[C:1]([N:3]([O:5][N:4]([C:2]([H:10])([H:11])[H:13])[H:7])[H:6])([H:8])([H:9])[H:12]>>[C:1]([N:3]([O:5][N:4]([C:2]([H:10])([H:11])[H:13])[H:6])[H:7])([H:8])([H:9])[H:12],41.420647500005146
MR_662950_1,[C:1](/[C:4]([C:2]([H:15])([H:16])[H:17])=[C:5](\[C:3]([H:18])([H:19])[H:20])[N:7]([H:13])[H:14])([N:6]([H:11])[H:12])([O:8][H:9])[H:10]>>[C:1](=[C:4](\[C:2]([H:15])([H:16])[H:17])[C:5]([C:3]([H:18])([H:19])[H:20])([N:6]([H:11])[H:12])[N:7]([H:13])[H:14])(\[O:8][H:9])[H:10],59.94758499999151
MR_242487_0,[C:1]([c:4]1[n:2]([H:6])[n:3]([H:7])[c:5]1[H:8])([H:9])([H:10])[H:11]>>[C:1]([C:4](=[N:2]/[H:6])/[C:5](=[N:3]\[H:7])[H:8])([H:9])([H:10])[H:11],31.56450499999238
MR_240791_0,[n:1]1([H:9])[c:3](=[O:7])[n:2]([H:10])[c:5]([H:11])[c:4]1[O:6][H:8]>>[N:1](=[C:4](/[C:5]1([H:11])[N:2]([H:10])[C:3]1=[O:7])[O:6][H:8])\[H:9],67.4869975000037
MR_98378_0,[C:1](/[N:4]=[N:3]/[O:2][H:5])([H:6])([H:7])[H:8]>>[C:1](=[N:4][N:3]([O:2][H:5])[H:8])([H:6])[H:7],72.78121499999521
MR_200919_0,[C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([H:15])([H:16])[H:17])(/[C:6]([C:5]([H:21])([H:22])[H:23])=[N:9]/[C:4]([H:18])([H:19])[H:20])[O:8][N:7]([H:10])[H:11]>>[C:1]1([C:2]([H:12])([H:13])[H:14])([C:3]([H:15])([H:16])[H:17])[C:6]([C:5]([H:21])([H:22])[H:23])([O:8][N:7]([H:10])[H:11])[N:9]1[C:4]([H:18])([H:19])[H:20],68.85180999998212
MR_170381_0,[C:1]([C:2](=[C:3]([H:10])[H:11])[H:9])([O:4][O:5][H:6])([H:7])[H:8]>>[C:1]([O:4][C:2](=[C:3]([H:10])[H:11])[H:9])([O:5][H:6])([H:7])[H:8],63.78913999999455
MR_589314_1,[C:1]([N:2]([N:6]=[C:3]([O:4][H:7])[O:5][H:8])[H:9])([H:10])([H:11])[H:12]>>[C:1]([N:6]1[N:2]([H:9])[C:3]1([O:4][H:7])[O:5][H:8])([H:10])([H:11])[H:12],61.81941749997392
MR_493794_1,[C:1]1([N:5]([H:9])[H:10])([H:8])[N:3]([C:4]([C:2]([H:11])([H:12])[H:13])=[C:6]([H:14])[H:15])[O:7]1>>[C:1](/[N:3]=[C:4](/[C:2]([H:11])([H:12])[H:13])[C:6]([N:5]([H:9])[H:10])([H:14])[H:15])(=[O:7])[H:8],29.4931275000144
MR_514185_0,[C:1](/[C:3]([N:6]([H:14])[H:15])=[C:8](/[C:2]([H:19])([H:20])[H:21])[H:18])([N:4]([H:10])[H:11])([N:5]([H:12])[H:13])/[C:7](=[N:9]/[H:16])[H:17]>>[C:1](=[C:3]([N:6]([H:14])[H:15])[C@:8]([C:2]([H:19])([H:20])[H:21])(/[C:7](=[N:9]/[H:16])[H:17])[H:18])([N:4]([H:10])[H:11])[N:5]([H:12])[H:13],63.5983799999768
